US08791123B2
A solution of (2S,5R)-1-tert-butyl 2-ethyl 5-(5-fluoropyridin-3-yl)-2-methylpyrrolidine-1,2-dicarboxylate (240 mg, 0.681 mmol) in THF (10 mL) was cooled to −78° C. and 1M LiAlH4 in THF (1.50 mL, 1.50 mmol) was added dropwise. The reaction was allowed to warm to 0° C. and was quenched with small portions of Na2SO4-10H2O (967 mg, 6.81 mmol). The mixture was filtered and concentrated to afford (2S,5R)-tert-butyl 5-(5-fluoropyridin-3-yl)-2-(hydroxymethyl)-2-methylpyrrolidine-1-carboxylate (200 mg, 95% yield). MS (apci) m/z=311.1 (M+H).

reactant | (2S,5R)-1-tert-butyl 2-ethyl 5-(5-fluoropyridin-3-yl)-2-methylpyrrolidine-1,2-dicarboxylate | 0.681 mmol, 240 mg | FC=1C=C(C=NC1)[C@H]1CC[C@](N1C(=O)OC(C)(C)C)(C(=O)OCC)C | C18H25FN2O4
reactant | LiAlH4 | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1.50 mmol, 1.50 mL | C1CCOC1 | C4H8O
product | (2S,5R)-tert-butyl 5-(5-fluoropyridin-3-yl)-2-(hydroxymethyl)-2-methylpyrrolidine-1-carboxylate | 200 mg, 95% yield | FC=1C=C(C=NC1)[C@H]1CC[C@@](N1C(=O)OC(C)(C)C)(C)CO | C16H23FN2O3
